US08486984B2
11.3 1-(7-Nitro-2-propyl-1,2,3,4-tetrahydro-beta-carbolin-9-yl)-ethanone
To 1-(2-propyl-1,2,3,4-tetrahydro-beta-carbolin-9-yl)-ethanone (1.05 g, 4.1 mmol) in conc. H2SO4 was added KNO3 (435 mg, 4.3 mmol) in small portions at 0° C. The reaction mixture was allowed to warm up to room temperature and stirred for an additional 30 minutes. The reaction mixture was poured onto 250 ml of ice and extracted once with ethyl acetate. The aqueous phase was made alkaline and extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulfate, filtered, and evaporated to dryness to yield 1.2 g of crude product (70% purity).

reactant | 1-(2-propyl-1,2,3,4-tetrahydro-beta-carbolin-9-yl)-ethanone | 4.1 mmol, 1.05 g | C(CC)N1CC=2N(C3=CC=CC=C3C2CC1)C(C)=O | C16H20N2O
reactant | KNO3 | 4.3 mmol, 435 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 1-(7-Nitro-2-propyl-1,2,3,4-tetrahydro-beta-carbolin-9-yl)-ethanone | 1.2 g, 70% | [N+](=O)([O-])C1=CC=C2C=3CCN(CC3N(C2=C1)C(C)=O)CCC | C16H19N3O3
